US07109357B2
A mixture of 4-azido-5-ethoxy-dihydrofuran-2-one (1.06 g, 6.2 mmol), (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (1.33 g, 6.2 mmol), and 10% palladium on carbon (0.50 g) in ethyl acetate previously degassed with N2 (50 mL) was stirred under 1 atm hydrogen at room temperature for 1 h. The mixture was diluted with dichloromethane, filtered (Celite) and evaporated. The crude mixture was dissolved in dichloromethane (100 mL), was treated with diisopropylethylamine (5.4 mL, 30.8 mmol), EDC (1.48 g, 7.71 mmol), and HOBT (1.04 g, 7.71 mmol) and was stirred at room temperature under nitrogen for 24 h. The reaction was diluted with ethyl acetate, was washed with 10% sodium bisulfate, saturated sodium bicarbonate, and brine, was dried over sodium sulfate, and was evaporated. Purification by flash chromatography (SiO2) eluted with 1:1 ethyl acetate:hexanes provided (R)-2-(2-ethoxy-5-oxo-tetrahydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.19 g, 56% yield) as a very viscous, pale yellow oil. 1H-NMR (500 MHz, CDCl3) δ 7.61 (br, 0.6H), 5.29 (s, 0.6H), 5.25 (br s, 0.4H), 4.29 (br, 1.2H), 4.20 (br s, 0.8H), 3.78 (m, 1H), 3.57 (m, 1H), 3.34 (br, 1.4H), 3.25 (br, 0.6H), 2.94 (br dd, J=14.9, 3.8 Hz, 1H), 2.31 (dd, J=18.0, 1.4 Hz, 1H), 2.1-2.3 (br 1H), 1.82 (br s, 1H), 1.39 (s, 9H), 1.17 (m, 3H) ppm. MS (ES+): m/e=343 (M+H).

reactant | 4-azido-5-ethoxy-dihydrofuran-2-one | 6.2 mmol, 1.06 g | N(=[N+]=[N-])C1CC(OC1OCC)=O | C6H9N3O3
reactant | (S)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 6.2 mmol, 1.33 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(=O)O | C10H17NO4
reactant | diisopropylethylamine | 30.8 mmol, 5.4 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC | 7.71 mmol, 1.48 g
reactant | HOBT | 7.71 mmol, 1.04 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
catalyst | palladium on carbon | 0.50 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-2-(2-ethoxy-5-oxo-tetrahydrofuran-3-ylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.19 g, 56% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)C(NC1C(OC(C1)=O)OCC)=O | C16H26N2O6
